US06455528B1
(7) Synthesis of 2-(4-Acetamidomethylphenyl)-2-methylpropionic Acid
To a solution of methyl 2-(4-acetylaminomethylphenyl)-2-methylpropionate (23.47 g) in ethanol (160 ml) was added a solution of sodium hydroxide (7.53 g) in water (94 ml) and the mixture was stirred at 70° C. for 1 hr. The solvent was evaporated, and conc. hydrochloric acid was added. The resulting crystals were collected by filtration to give the title compound (14.0 g) as pale-yellow crystals, m.p.=166-169° C.

reactant | methyl 2-(4-acetylaminomethylphenyl)-2-methylpropionate | 23.47 g | C(C)(=O)NCC1=CC=C(C=C1)C(C(=O)OC)(C)C | C14H19NO3
reactant | sodium hydroxide | 7.53 g | [OH-].[Na+]
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | water | 94 ml | O | H2O
product | 2-(4-Acetamidomethylphenyl)-2-methylpropionic Acid | 14.0 g | C(C)(=O)NCC1=CC=C(C=C1)C(C(=O)O)(C)C | C13H17NO3
